US07863271B2
To a solution of fuming nitric acid (18 mL) and glacial acetic acid (36 mL) preheated to 55° C. was added 3-fluoro-5-methoxybenzoic acid (3.00 g, 17.63 mmol) portion wise over 5 min. The mixture was maintained at 55° C. for an additional 90 min. The reaction was cooled to ambient temperature and poured onto ice-water (200 mL). The pH of the solution was adjusted to 2 using aqueous NaHCO3 solution. The precipitate formed was filtered and washed with hexanes (100 mL) to afford 5-fluoro-3-methoxy-2-nitrobenzoic acid (2.52 g, 66%) as a white solid. 1H NMR and MS consistent.

reactant | nitric acid | 18 mL | [N+](=O)(O)[O-] | HNO3
reactant | 3-fluoro-5-methoxybenzoic acid | 17.63 mmol, 3.00 g | FC=1C=C(C(=O)O)C=C(C1)OC | C8H7FO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 36 mL | C(C)(=O)O | C2H4O2
product | 5-fluoro-3-methoxy-2-nitrobenzoic acid | 2.52 g, 66% | FC=1C=C(C(=C(C(=O)O)C1)[N+](=O)[O-])OC | C8H6FNO5
